US05567726
A solution of 1-(4-hydrazinophenyl)methyl-1,2,4-triazole (0.92 g, 4.1 mmol) and 4-(1-azetidinyl)butanal dimethylacetal (0.65 g, 3.8 mmol), in 4% H2SO4 (30 ml), was refluxed for 4.5 h. The solution was cooled to room temperature, basified with K2CO3 and extracted with EtOAc (4×100 ml). The combined extracts were dried (Na2SO4) and evaporated and the residue chromatographed on silica-gel eluting with CH2Cl2 /MeOH/NH3 (40:8:1) to give the title-indole. The hydrogen oxalate hemihydrate salt was prepared (30 mg); m.p. 128°-129° C. Found: C, 57.28, H, 5.95; N, 18.05. C16H19N5.C2H2O4.0.45 H2O requires C, 56.97; H, 5.82; N,18.45%). δ (360 MHz, D2O) 2.30-2.54 (2H, m, CH2), 3.07 (2H, t, J=7.0 Hz, CH2), 3.52 (2H, t, J=7.0 Hz, CH2), 3.94-4.13 (4H, m, 2 of CH2), 5.51 (2H, s, CH2), 7.20 (1H, dd, J=1.5 and 8.4 Hz, Ar--H), 7.30 (1H, s, Ar--H), 7.51 (1H, d, J=8.4 Hz, Ar--H), 7.62 (1H, s, Ar--H), 8.05 (1H, s, Ar--H), 8.56 (1H, s, Ar--H).

reactant | 1-(4-hydrazinophenyl)methyl-1,2,4-triazole | 4.1 mmol, 0.92 g | N(N)C1=CC=C(C=C1)CN1N=CN=C1 | C9H11N5
reactant | 4-(1-azetidinyl)butanal dimethylacetal | 3.8 mmol, 0.65 g | COC(CCCN1CCC1)OC | C9H19NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | H2SO4 | 30 ml | OS(=O)(=O)O | H2O4S
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
